US09029392B2
To a solution of nicotinaldehyde (10.0 g, 93.4 mmol) in ethyl acrylate (20 mL, ˜200 mmol) at room temperature was added DABCO (0.5 g, 4.5 mmol) and the mixture was stirred overnight. Excess ethyl acrylate was removed in vacuo to give a crude solid. This was washed with hexane to give 2-[(hydroxy)(pyridin-3-yl)methyl]acrylic acid ethyl ester (18.5 g, 95%) as an off white solid. δH (CDCl3) 8.62 (d, J 1.7 Hz, 1H), 8.53 (dd, J 4.8, 1.3 Hz, 1H), 7.81 (d, J 7.9 Hz, 1H), 7.28 (s, 1H), 6.42 (s, 1H), 5.93 (s, 1H), 5.63 (s, 1H), 4.18 (m, 2H), 3.20 (br, 1H), 1.27 (t, J 7.1 Hz, 3H). LCMS (ES+) 208.2 (M+H)+.

reactant | nicotinaldehyde | 93.4 mmol, 10.0 g | C(C1=CN=CC=C1)=O | C6H5NO
reactant | ethyl acrylate | ˜200 mmol, 20 mL | C(C=C)(=O)OCC | C5H8O2
catalyst | DABCO | 4.5 mmol, 0.5 g | C1CN2CCN1CC2 | C6H12N2
product | 2-[(hydroxy)(pyridin-3-yl)methyl]acrylic acid ethyl ester | 18.5 g, 95% | C(C)OC(C(=C)C(C=1C=NC=CC1)O)=O | C11H13NO3
